US09375009B2
A mixture of 1-(4-fluorophenyl)ethanone oxime (8.00 g) and caesium carbonate (20.4 g) in acetonitrile was stirred at 20° C. for 30 minutes. Then ethyl bromoacetate (12.2 g) and potassium iodide (8.7 g) were added thereto and the mixture was stirred at 82° C. for 3 hours. Then the reaction mixture was filtered. The solvent was removed from the filtrate under reduced pressure. Purification by column chromatography gave ethyl({[1-(4-fluorophenyl)ethylidene]amino}oxy)acetate (8.7 g).

reactant | 1-(4-fluorophenyl)ethanone oxime | 8.00 g | FC1=CC=C(C=C1)C(C)=NO | C8H8FNO
reactant | caesium carbonate | 20.4 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl bromoacetate | 12.2 g | BrCC(=O)OCC | C4H7BrO2
reactant | potassium iodide | 8.7 g | [I-].[K+]
solvent | acetonitrile | C(C)#N | C2H3N
product | ethyl({[1-(4-fluorophenyl)ethylidene]amino}oxy)acetate | 8.7 g | C(C)OC(CON=C(C)C1=CC=C(C=C1)F)=O | C12H14FNO3
